US04066655
8-Chloro-4,10-dihydro-4,10-dioxo-1H-1-benzopyrano[3,2-b]pyridine-3-carboxylic acid
A suspension of ethyl 8-chloro-4,10-dihydro-4,10-dioxo-1H-1-benzopyrano[3,2-b]pyridine-3-carboxylate (3.0 g, 0.0094 mole) in 6N hydrochloric acid (100 ml ) was refluxed under nitrogen for 15 hrs., cooled and filtered. The residue was washed with water and with acetone. Recrystallization from DMF gave white crystals (2.4 g, 87%), m.p. 325°-327°.

reactant | ethyl 8-chloro-4,10-dihydro-4,10-dioxo-1H-1-benzopyrano[3,2-b]pyridine-3-carboxylate | 0.0094 mole, 3.0 g | ClC=1C=CC2=C(C(C=3NC=C(C(C3O2)=O)C(=O)OCC)=O)C1 | C15H10ClNO5
solvent | hydrochloric acid | 6N, 100 ml | Cl | ClH
product | 8-Chloro-4,10-dihydro-4,10-dioxo-1H-1-benzopyrano[3,2-b]pyridine-3-carboxylic acid | 2.4 g, 87% | ClC=1C=CC2=C(C(C=3NC=C(C(C3O2)=O)C(=O)O)=O)C1 | C13H6ClNO5
